US07479559B2
A solution of methyl p-bromobenzoate (3 g, 13.2 mmol) in tetrahydrofuran (14 mL) cooled to −30° C. was treated dropwise with methyl magnesium bromide (1 M in diethyl ether, 105.5 mmol, 105.5 mL). Upon completion of addition, the resulting suspension was allowed to warm to room temperature and was stirred for 5 hours. Saturated aqueous ammonium chloride (100 mL) was added slowly and the mixture was diluted with ethyl acetate (100 mL). The organic and aqueous layers were separated and the aqueous layer was extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over magnesium sulfate, were filtered, and the solvent was removed in vacuo. Purification by silica gel chromatography (10:1 hexanes—ethyl acetate) gave 2.2 g (79% yield) of 2-(4-bromo-phenyl)-propan-2-ol. 13C NMR (100 MHz, CDCl3) d 148.4, 131.4, 126.6, 120.8, 72.5, 31.9; MS (AP/Cl) 197.1, 199.1 (M+H)+.

reactant | methyl p-bromobenzoate | 13.2 mmol, 3 g | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
reactant | methyl magnesium bromide | 105.5 mmol, 1 M, 105.5 mL | C[Mg]Br
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
product | 2-(4-bromo-phenyl)-propan-2-ol | 2.2 g, 79% yield | BrC1=CC=C(C=C1)C(C)(C)O | C9H11BrO
